US07576115B2
Synthesis of 4-{[(2-{[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]methylene}hydrazino)carbonothioyl]amino}benzoic acid
2-(4-t-Butylphenyl)-3-hydroxy-4-formylthiophene (50 mg, 0.19 mmol) synthesized in Reference Synthetic Example 25 and 4-hydrazinocarbonothioylaminobenzoic acid (40 mg, 0.19 mmol) were stirred with dimethylformamide (1.9 mL) and concentrated hydrochloric acid (0.1 mL) at room temperature for 12 hours. The reaction solution was partitioned between ethyl acetate and water, and the organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The resulting organic layer was concentrated and purified by silica gel column chromatography (chloroform). Methanol/chloroform was added to the resulting crude product, and the precipitated yellow solid was recovered by filtration to give the desired product as a pale yellow solid (20 mg, yield 23%).

reactant | 2-(4-t-Butylphenyl)-3-hydroxy-4-formylthiophene | 0.19 mmol, 50 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C=O | C15H16O2S
reactant | 4-hydrazinocarbonothioylaminobenzoic acid | 0.19 mmol, 40 mg | N(N)C(=S)NC1=CC=C(C(=O)O)C=C1 | C8H9N3O2S
reactant | hydrochloric acid | 0.1 mL | Cl | ClH
solvent | dimethylformamide | 1.9 mL | CN(C=O)C | C3H7NO
product | 4-{[(2-{[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]methylene}hydrazino)carbonothioyl]amino}benzoic acid | 20 mg, yield 23% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C=NNC(=S)NC1=CC=C(C(=O)O)C=C1)O | C23H23N3O3S2
